US08664220B2
Step 5: 1-{4′-[3-Methyl-4-(3-phenethyl-oxiranyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
To a solution of 1-{4′-[3-methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.343 g, 0.72 mmol) in CH2Cl2 (3.5 mL) was added meta-chloroperoxybenzoic acid (0.181 g, 0.79 mmol), and the reaction was stirred at room temperature overnight. Analytical LCMS indicated the starting material was still present, so additional meta-chloroperoxybenzoic acid was added, and the reaction was stirred overnight at room temperature. After aqueous workup, the organic layer was dried over MgSO4, filtered, and concentrated, and the crude material was purified by silica gel chromatography to give the title compound.

reactant | 1-{4′-[3-methyl-4-(4-phenyl-but-1-enyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.72 mmol, 0.343 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C=CCCC1=CC=CC=C1 | C32H31NO3
reactant | meta-chloroperoxybenzoic acid | 0.79 mmol, 0.181 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 3.5 mL | C(Cl)Cl | CH2Cl2
product | 1-{4′-[3-Methyl-4-(3-phenethyl-oxiranyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C1OC1CCC1=CC=CC=C1 | C32H31NO4
